US04654343
N-[3-(3-Methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]cyclobutanecarboxamide
To a solution of 7.0 g of 3-methyl-6-(3-aminophenyl)-1,2,4-triazolo[4,3-b]pyridazine in 1.5 liters of dichloromethane was added 6 ml of N,N-diisopropylethylamine and 4.0 g of cyclobutane carboxylic acid chloride. This solution was stirred for 4 hours, washed with 200 ml of saturated aqueous sodium bicarbonate, dried and evaporated in vacuo. A small amount of dichloromethane was added and the mixture warmed to give 2.45 g of crystals. A second crop (3.5 g) was recovered from the mother liquor. Recrystallization from dichloromethane-hexane gave the desired compound as white crystals, mp 242°-245° C.

reactant | 3-methyl-6-(3-aminophenyl)-1,2,4-triazolo[4,3-b]pyridazine | 7.0 g | CC1=NN=C2N1N=C(C=C2)C2=CC(=CC=C2)N | C12H11N5
reactant | N,N-diisopropylethylamine | 6 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cyclobutane carboxylic acid chloride | 4.0 g | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | dichloromethane | 1.5 liters | ClCCl | CH2Cl2
product | N-[3-(3-Methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]cyclobutanecarboxamide | 2.45 g | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)NC(=O)C2CCC2 | C17H17N5O
